US03956310
5.5 Parts of 7,14-diazadispiro[5.1.5.2]pentadecan-15-one, 3.84 parts of p-chlorophenyl isocyanate and a trace of 1,4-diazabicyclo[2.2.2]octane in 100 parts of dry benzene were heated at reflux for 36 hours. The solvent was removed in vacuo to yield a solid material which was recrystallised twice from petroleum ether of boiling range 60° to 80°C affording 5.6 parts of 14-p-chlorophenylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one as colourless needles of melting point 139° to 141°C. This material gave the following elemental analysis by weight:

reactant | 7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1CCCCC12NC1(CCCCC1)NC2=O | C13H22N2O
reactant | p-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 14-p-chlorophenylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one | ClC1=CC=C(C=C1)NC(=O)N1C2(NC3(CCCCC3)C1=O)CCCCC2 | C20H26ClN3O2
